US04578393
1-(4-Chlorophenyl)-3-dimethylamino-6-hydroxy-1,4-dihydroisoquinoline hydrobromide
A solution of 1-(4-chlorophenyl)-3-dimethylamino-6-methoxy-1,4-dihydroisoquinoline hydrochloride hydrate (1.5 g) in 48% aqueous hydrobromic acid (200 ml) was heated at 120° C. for 2.5 h. The solution was evaporated to dryness in in vacuo and recrystallised from ethanol-ether to give the title compound, (2.53 g),

reactant | 1-(4-chlorophenyl)-3-dimethylamino-6-methoxy-1,4-dihydroisoquinoline hydrochloride hydrate | 1.5 g | O.Cl.ClC1=CC=C(C=C1)C1N=C(CC2=CC(=CC=C12)OC)N(C)C
reactant | hydrobromic acid | 200 ml | Br | BrH
product | 1-(4-Chlorophenyl)-3-dimethylamino-6-hydroxy-1,4-dihydroisoquinoline hydrobromide | 2.53 g | Br.ClC1=CC=C(C=C1)C1N=C(CC2=CC(=CC=C12)O)N(C)C | InChI=1S/C17H17ClN2O.BrH/c1-20(2)16-10-12-9-14(21)7-8-15(12)17(19-16)11-3-5-13(18)6-4-11;/h3-9,17,21H,10H2,1-2H3;1H
